US05939568
Preparation of bis(1-camphenyl)zinc:
Thiele et al. Anorg. Allg. Chem. Chem. 1988, 561, 73. To a stirred suspension of 18.4 g 1-camphenyllithium in 250 mL n-pentane is added dropwise a solution of 9 g zincchloride in 300 mL diethylether at room temperature (keep the speed of addition in such a way that the solution is boiling smoothly). This reaction mixture is stirred for 3 h and is subsequently allowed to stand overnight. The precipitated LiCl is filtered off and the solvent of the filtrate is completely removed. The residue is solved in n-pentane and remaining LiCl is separated. The solution is the cooled to -78° C. The precipitated crystalls are filtered at low temperature and dried in vacuo. Yield: 12.5 g (60%).

reactant | 1-camphenyllithium | 18.4 g | C12(C(C)(C)C(=C)C(CC1)C2)[Li]
reactant | zincchloride | 9 g | [Cl-].[Zn+2].[Cl-]
solvent | n-pentane | 250 mL | CCCCC | C5H12
solvent | diethylether | 300 mL | C(C)OCC | C4H10O
product | bis(1-camphenyl)zinc | C12(C(C)(C)C(=C)C(CC1)C2)[Zn]C21C(C)(C)C(=C)C(CC2)C1 | InChI=1S/2C10H15.Zn/c2*1-7-8-4-5-9(6-8)10(7,2)3;/h2*8H,1,4-6H2,2-3H3;
